US05008392
53.25 g (0.25 mol) of dimethyl dichloromaleate were dissolved in 100 ml of dimethylformamide, and 48.16 g (0.625 mol) of ammonium acetate were added. The mixture was rapidly heated to 120° C. and stirred at 110° C. to 120° C. for one hour. The solvent was subsequently removed by distillation, the residue was taken up in methylene chloride, and the solution was washed with water. The methylene chloride was removed by distillation on an evaporator, and, after recrystallization, 40 g (83% yield) of dimethyl aminochloromaleate were obtained in the form of yellowish, cubic crystals (m.p. 96°-98° C.)

reactant | dimethyl dichloromaleate | 0.25 mol, 53.25 g | Cl/C(=C(/C(=O)OC)\Cl)/C(=O)OC | C6H6Cl2O4
reactant | ammonium acetate | 0.625 mol, 48.16 g | C(C)(=O)[O-].[NH4+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | dimethyl aminochloromaleate | 40 g, 83% yield | N/C(=C(/C(=O)OC)\Cl)/C(=O)OC | C6H8ClNO4
